US08445509B2
Production of N-{6-[(4-methoxybenzyl)oxy]imidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide
To a solution of 6-[(4-methoxybenzyl)oxy]imidazo[1,2-a]pyridin-2-amine (8.5 g, 31.6 mmol) in N,N-dimethylacetamide (80 mL) was added a solution of cyclopropanecarbonyl chloride (3.43 mL, 37.9 mmol) in N,N-dimethylacetamide (20 mL) at 0° C., and the mixture was stirred at 0° C. for 3 hr. The reaction mixture was diluted with water, and the precipitate was collected by filtration and washed with water and ethyl acetate to give the title compound (8.9 g, 83%) as a gray solid.

reactant | 6-[(4-methoxybenzyl)oxy]imidazo[1,2-a]pyridin-2-amine | 31.6 mmol, 8.5 g | COC1=CC=C(COC=2C=CC=3N(C2)C=C(N3)N)C=C1 | C15H15N3O2
reactant | cyclopropanecarbonyl chloride | 37.9 mmol, 3.43 mL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | N,N-dimethylacetamide | 80 mL | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 20 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | N-{6-[(4-methoxybenzyl)oxy]imidazo[1,2-a]pyridin-2-yl}cyclopropanecarboxamide | 8.9 g, 83% | COC1=CC=C(COC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1 | C19H19N3O3
